US07163939B2
6-(3-butenyloxy)-2-pyrazinamine
A suspension of NaH (60%, 618 mg, 15.45 mmol) in dioxane (30 mL) at 0° C. was treated with 3-buten-1-ol (1.33 mL, 15.45 mmol), stirred for 2 hours, treated with 2-amino-6-chloropyrazine (1 g, 7.72 mmol), stirred at 100° C. for 2.5 days, cooled to room temperature, and diluted with ethyl acetate. The mixture was washed with water, dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography eluting with hexanes/ethyl acetate (2:1) to provide the desired product (390 mg, 31%). MS (DCI/NH3) m/z 166.12 (M+H)+; 1H NMR (500 MHz, benzene-d6) δ 2.66 (m, 2H), 4.42 (t, J=6.87 Hz, 2H), 5.24 (dd, J=10.22, 1.98 Hz, 1H), 5.30 (m, 1H), 6.04 (m, 1H), 7.64 (s, 1H), 7.65 (s, 1H).

reactant | NaH | 15.45 mmol, 618 mg | [H-].[Na+]
reactant | 3-buten-1-ol | 15.45 mmol, 1.33 mL | C(CC=C)O | C4H8O
reactant | 2-amino-6-chloropyrazine | 7.72 mmol, 1 g | NC1=NC(=CN=C1)Cl | C4H4ClN3
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(3-butenyloxy)-2-pyrazinamine | 390 mg, 31% | C(CC=C)OC1=CN=CC(=N1)N | C8H11N3O
